datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1.F[S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34]>>C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1.F[S:32]([CH-:21][CH2:20][H:10])(=[O:33])=[O:34] 10,11=10,20;20,21=21"
"C1=CC=C([N:12]2[CH:11]=[N:10][CH:64]=[CH:63]2)C=C1.C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1>>C1=CC=C([N+:12]2=[CH:11][N:10]([CH:20]([C:31]3=[CH:36][C:35]4=[C:34]5N(CCC4)CC[C:33]5=[CH:32]3)[C:41]3=[CH:42][C:43]4=[C:44]5N(CCC[C:45]5=[CH:46]3)CC4)[CH:64]=[CH:63]2)C=C1 10,11=10,20;12=11,12"
"C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][CH:11]=[CH2:10].O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O+:12]=[CH:11][CH2:10][CH:20]1[C:21]2(S(=O)(=O)C(F)(F)F)[N+:22]([O-])([O-:23])[C:33](=[CH:32]2)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1.C[N:12]1[C:11](=[CH2:10])[N:61](C)[C:64]2=[C:63]1C=CC=C2>>C[N+]1=C([C:22](=[CH:21][CH:20]([CH2:10][C:11]2=[N+:12](C)[C:63]3=[C:64](C=CC=C3)[N:61]2C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[N:12]([C:11]2=[CH:10]CCC2)CC1.C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1>>C1CC[N+:12](=[C:11]2CCC[CH:10]2[CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC[C:33]4=[CH:32]2)CCC3)[CH:51]=[CH:52][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)CC1 10,11=10,20;12=11,12"
"C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.C[O:16][C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1>>C1=CC=C([S:32]([C-:21]([CH:20]([H:10])[C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.C[O+:16]=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1.N#CC1=CC=C([N+:61]#[C-:10])C=C1>>COC1=CC=[N+](C[C:21]([CH:20]([C:10]#[N+:61]C2=CC=C(C#N)C=C2)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10=20;20,21=21,22;22,23=23"
"C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1.[C:10](=[N+:11]=[N-:12])([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1>>C1[CH:20]([C:10]([N+:11]#[N:12])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:21]=[C:22]([O-:23])[O:33]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N3CCOCC3)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.O=C(C1=CC=CC=C1)[CH-:10][N+:61]1=[CH:62][CH:63]=[CH:64][C:71]2=[C:72]1C=CC=C2>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C(=O)C2=CC=CC=C2)[N+:61]2=[CH:62][CH:63]=[CH:64][C:71]3=[C:72]2C=CC=C3)[C:21](C[N+]2=CC=C(N3CCOCC3)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21.[CH:10](=[N+:11]=[N-:12])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH:10]([N+:11]#[N:12])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61]([N:10]=[C:11](C)[O-:12])=[O:62].FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC[O:72][C:61]([N:10]([C:11](C)=[O:12])[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](C(F)(F)F)=[CH:54][CH:55]=[CH:56]1)=[O:62] 10,11=10,20;12=11,12"
"C1=CC=C([C-:10]([C:61](C2=CC=CC=C2)=[O:62])[C:71](C2=CC=CC=C2)=[O:72])C=C1.CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1>>CC1=CC=C([S:32]([N-:21][CH:20]([C:10](C2=CC=CC=C2)([C:61](C2=CC=CC=C2)=[O:62])[C:71](C2=CC=CC=C2)=[O:72])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10=20;20,21=21"
